### PR TITLE
[Merged by Bors] - feat(Algebra/Algebra/Lie): define the maximal nilpotent ideal of Lie algebras

### PR DESCRIPTION
**Pull request by jano-wol**
Define the maximal nilpotent ideal of Lie algebras
---
In this PR, I define the maximal nilpotent ideal of a Lie algebra.
A closely related concept—the radical of a Lie algebra (the maximal solvable ideal)—is already defined in Algebra/Lie/Solvable.lean.

I prove the analogous results for the maximal nilpotent ideal that have been established for the radical.

This work is part of the framework:
https://github.com/orgs/leanprover-community/projects/17

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 1]
```diff
@@ -716,6 +718,24 @@ theorem isNilpotent_of_le (M₁ M₂ : LieSubmodule R L M) (h₁ : M₁ ≤ M₂
...
   exact (Submodule.inclusion_injective h₁).lieModuleIsNilpotent hfg
 
+/-- The max nilpotent submodule is the `sSup` of all nilpotent submodules. -/
+def maxNilpotentSubmodule :=
+  sSup { N : LieSubmodule R L M | IsNilpotent L N }
+
+instance maxNilpotentSubmoduleIsNilpotent [IsNoetherian R M] :
+    IsNilpotent L (maxNilpotentSubmodule R L M) := by
+  have hwf := LieSubmodule.wellFoundedGT_of_noetherian R L M
+  rw [← CompleteLattice.isSupClosedCompact_iff_wellFoundedGT] at hwf
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:728]: Since `LieSubmodule.wellFoundedGT_of_noetherian` is an instance, it is supposed to be picked up automatically. Usually (though not always) something is not quite right when we need to address an instance by name. In this case we can golf as follows:
```suggestion
  have hwf := CompleteLattice.WellFoundedGT.isSupClosedCompact (LieSubmodule R L M) inferInstance
```
but we still shouldn't need that final `inferInstance`: the final argument to `CompleteLattice.WellFoundedGT.isSupClosedCompact` should be a typeclass argument rather than an explicit argument.

The reason for these minor issues is that it is only relatively recently that we promoted the concept of a well founded order to a typeclass (as `WellFoundedGT`).

In time, we'll smooth out these wrinkles.

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 2]
```diff
@@ -716,6 +718,24 @@ theorem isNilpotent_of_le (M₁ M₂ : LieSubmodule R L M) (h₁ : M₁ ≤ M₂
...
+  refine hwf { N : LieSubmodule R L M | IsNilpotent L N } ⟨⊥, ?_⟩ fun N₁ h₁ N₂ h₂ => ?_
+  · simp [trivialIsNilpotent L]
+  · rw [Set.mem_setOf_eq] at h₁ h₂
+    apply instIsNilpotentAdd R L
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:732]: In this case the two goals are very close to being just instances, so we should try to avoid doing things manually. We can golf as follows:
```suggestion
  refine hwf { N : LieSubmodule R L M | IsNilpotent L N } ⟨⊥, ?_⟩ fun N₁ h₁ N₂ h₂ => ?_ <;>
  simp_all <;> infer_instance
```
provided we first make the following change higher up:
```diff
- instance instIsNilpotentAdd (M₁ M₂ : LieSubmodule R L M) [IsNilpotent L M₁] [IsNilpotent L M₂] :
-     IsNilpotent L (M₁ + M₂ : LieSubmodule R L M) := by
+ instance instIsNilpotentSup (M₁ M₂ : LieSubmodule R L M) [IsNilpotent L M₁] [IsNilpotent L M₂] :
+    IsNilpotent L (M₁ ⊔ M₂ : LieSubmodule R L M) := by
```

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 3]
```diff
@@ -716,6 +718,24 @@ theorem isNilpotent_of_le (M₁ M₂ : LieSubmodule R L M) (h₁ : M₁ ≤ M₂
   have hfg : ∀ x m, ⁅f x, g m⁆ = g ⁅x, m⁆ := by aesop
   exact (Submodule.inclusion_injective h₁).lieModuleIsNilpotent hfg
 
+/-- The max nilpotent submodule is the `sSup` of all nilpotent submodules. -/
+def maxNilpotentSubmodule :=
+  sSup { N : LieSubmodule R L M | IsNilpotent L N }
+
+instance maxNilpotentSubmoduleIsNilpotent [IsNoetherian R M] :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:725]:
```suggestion
instance instMaxNilpotentSubmoduleIsNilpotent [IsNoetherian R M] :
```

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 4]
```diff
@@ -956,3 +976,33 @@ instance LieModule.instIsNilpotentTensor [IsNilpotent L M] :
...
+  apply nilpotent_iff_le_max_nilpotent_submodule
+
+theorem center_le_max_nilpotent_ideal : center R L ≤ maxNilpotentIdeal R L := by
+  exact le_sSup (trivialIsNilpotent L (center R L))
+
+@[simp] lemma max_nilpotent_ideal_eq_top_of_isNilpotent [LieRing.IsNilpotent L] :
+    maxNilpotentIdeal R L = ⊤ := by
+  rw [eq_top_iff]
+  apply le_sSup
+  simpa
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:1006]: How about we do this first for Lie modules like the rest, i.e., higher up:
```lean
@[simp] lemma maxNilpotentSubmodule_eq_top_of_isNilpotent [LieModule.IsNilpotent L M] :
    maxNilpotentSubmodule R L M = ⊤ := by
  rw [eq_top_iff]
  apply le_sSup
  simpa
```
and then just use that here.

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 5]
```diff
@@ -956,3 +976,33 @@ instance LieModule.instIsNilpotentTensor [IsNilpotent L M] :
...
+`L` under the adjoint action. -/
+def maxNilpotentIdeal := maxNilpotentSubmodule R L L
+
+instance maxNilpotentIdealIsNilpotent [IsNoetherian R L] :
+    IsNilpotent L (maxNilpotentIdeal R L) := by
+  apply maxNilpotentSubmoduleIsNilpotent
+
+theorem LieIdeal.nilpotent_iff_le_max_nilpotent_ideal [IsNoetherian R L] (I : LieIdeal R L) :
+    IsNilpotent L I ↔ I ≤ maxNilpotentIdeal R L := by
+  apply nilpotent_iff_le_max_nilpotent_submodule
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:997]:
```suggestion
    IsNilpotent L I ↔ I ≤ maxNilpotentIdeal R L :=
  nilpotent_iff_le_maxNilpotentSubmodule R L L I
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

I've given a fairly nitpicky review, mostly to highlight some points of style which I think can only be learned through review but this is very nice work.

We'll be able to merge this very quickly after you've looked at these suggestions.

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 6]
```diff
@@ -956,3 +976,33 @@ instance LieModule.instIsNilpotentTensor [IsNilpotent L M] :
...
+variable (R : Type u) (L : Type v)
+variable [CommRing R] [LieRing L] [LieAlgebra R L]
+
+/-- The max nilpotent ideal of a Lie algebra. It is defined as the max nilpotent Lie submodule of
+`L` under the adjoint action. -/
+def maxNilpotentIdeal := maxNilpotentSubmodule R L L
+
+instance maxNilpotentIdealIsNilpotent [IsNoetherian R L] :
+    IsNilpotent L (maxNilpotentIdeal R L) := by
+  apply maxNilpotentSubmoduleIsNilpotent
```
[the remark this answers is not in the document]
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Nilpotent.lean]: Fixed.

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 5 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Nilpotent.lean]: Fixed

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 4 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Nilpotent.lean]: Done, thx!

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 7]
```diff
@@ -956,3 +976,33 @@ instance LieModule.instIsNilpotentTensor [IsNilpotent L M] :
...
+
+theorem LieIdeal.nilpotent_iff_le_max_nilpotent_ideal [IsNoetherian R L] (I : LieIdeal R L) :
```
[the remark this answers is not in the document]
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Nilpotent.lean:998]: Fixed.

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 8]
```diff
@@ -716,6 +718,27 @@ theorem isNilpotent_of_le (M₁ M₂ : LieSubmodule R L M) (h₁ : M₁ ≤ M₂
...
+instance instMaxNilpotentSubmoduleIsNilpotent [IsNoetherian R M] :
+    IsNilpotent L (maxNilpotentSubmodule R L M) := by
+  have hwf := CompleteLattice.WellFoundedGT.isSupClosedCompact (LieSubmodule R L M) inferInstance
+  refine hwf { N : LieSubmodule R L M | IsNilpotent L N } ⟨⊥, ?_⟩ fun N₁ h₁ N₂ h₂ => ?_ <;>
+  simp_all <;> infer_instance
+
+theorem isNilpotent_iff_le_maxNilpotentSubmodule [IsNoetherian R M] (N : LieSubmodule R L M) :
+    IsNilpotent L N ↔ N ≤ maxNilpotentSubmodule R L M :=
+  ⟨fun h ↦ le_sSup h, fun h ↦ isNilpotent_of_le R L M N (maxNilpotentSubmodule R L M) h
+    (instMaxNilpotentSubmoduleIsNilpotent R L M)⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:734]: I notice another explicitly-referenced instance. This suggests we probably should have made something a typeclass argument, and indeed I now realise this is the case. To be precise, we should make the following change above:
```diff
- theorem isNilpotent_of_le (M₁ M₂ : LieSubmodule R L M) (h₁ : M₁ ≤ M₂) (h₂ : IsNilpotent L M₂) :
+ theorem isNilpotent_of_le (M₁ M₂ : LieSubmodule R L M) (h₁ : M₁ ≤ M₂) [IsNilpotent L M₂] :
```
and then here we can get away with:
```suggestion
  ⟨fun h ↦ le_sSup h, fun h ↦ isNilpotent_of_le R L M N (maxNilpotentSubmodule R L M) h⟩
```

**Review by ocfnash — APPROVED** [review]
Thanks!

One final suggestion but otherwise LGTM

bors d+

File: Mathlib/Algebra/Lie/Nilpotent.lean (hunk 8 above)
Comment (jano-wol) [reply Mathlib/Algebra/Lie/Nilpotent.lean]: Fixed.
